Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
weakness and recent fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ F w/ h/o HTN, lower extremity edema and afib on coumadin 
was brought in by family for concern of lethargy and found to be 
hyponatremic to 106. Pt had an unwitnessed fall on ___ 
but denies head strike or LOC. She briefly c/o posterior right 
shoulder which resolved shortly afterwards. Family noticed that 
pt had increasing fatigue and mild intermittent confusion over 
the past week. Her son said that on ___ they were able to 
complete a 2 block walk, longer than her usual walks, and did 
not experience SOB but felt fatigued afterwards. Pt has not had 
fever, chills, cough, shortness of breath, dysuria, abdominal 
pain or bowel changes. However, family noted decreased appetite, 
po intake and urine output during this time. Pt lives alone and 
according to her son is normally quite functional and 
independently prepares her own food, reliably takes her 
medications and walks stably with a cane. Pt had complained of 
increased lower extremity edema during this time and in an 
effort to decrease edema pt reportedly decreased her fluid 
intake. When son stayed with his mother over the weekend and 
noticed decreased uop, the family recommended that she drink 
free water. Per family report she continued to take her 
prescibed doses of her medications, including ___ meds 
HCTZ, diovan and felodipine. Pt has had chronic lower extremity 
edema worsening over the past month and was evaluated by PCP ___ 
___ and ___. On both visits pt was found to have 3+ pitting 
edema in lower extremities with clear lungs and ___ 
JVP, not clinically determined to by volume overloaded. On ___ 
pt was found to be hyponatremic to 128 (baseline Na ___ over 
past year). PCP recommended compression stockings which she has 
not been compliant with, and discontinuation of felodipine 
however pt was hesitant to do so since she felt the CCB was 
improving her bp. Also of note, on ___, pt's weight was 131.5lbs 
(59 kilos) and had elevated INR of 4.7 (previously within ___ 
INR goal, on ___ INR 2.4).

Last echo (stress) ___: normal LVEF >55%, no wall motion 
abnormalities, no evidence of inducible ischemia, poor 
functional exercise capacity. Mild to moderate mitral 
regurgitation at rest. Moderate tricuspid regurgitation. Mild 
pulmonary hypertension.

In the ED, initial VS were: 97.9 HR: 60 BP: 143/68 Resp: 22 
SaO2Sat: 100. Labs notable for Na 106, K 2.9, Cl 73, Ca 7.9, 
Phos 1.3, Mg 1.8.
CXR showed bilateral pleural effusions, pulmonary edema and 
possible right lower lobe atelectasis. Pt was started on empiric 
antibiotic coverage with ceftriaxone and azithromycin. Pt was 
started on NS at 100cc/hr.
 
On arrival to the MICU, patient's VS were 97.8, hr 64, bp 
147/78, rr 19, Sa02 93% on RA. Repeat labs after pt received 
~150cc NS showed Na 106, K 3.1. Pt was continued on NS at 
100cc/hr and electrolyes repleted with Mg sulfate, K phos and Ca 
gluconate. After ~500cc NS repeat Na was still 106. After ~666cc 
NS repeat Na was 107 and Ca 8.2, Phos 2.8, Mg 2.5. Renal was 
consulted regarding starting hypertonic 3%NS. 
 
Review of systems:  
(+) Per HPI. Pt reported poor sleep over ___ and ___ 
nights for unclear reason and increased Tenderness near iv site 
on right forarm that began in ED. Pt has chronic constipation 
and has home bowel regimen.
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies shortness of breath, cough, or wheezing. 
Denies chest pain, chest pressure, palpitations. Denies 
abdominal pain, diarrhea, dark or bloody stools. Denies dysuria, 
frequency, or urgency. Denies arthralgias or myalgias. Denies 
rashes or skin changes.  

 
Past Medical History:
hypertension
hyperlipidemia
atrial fibrillation
glaucoma
cataracts
h/o DCIS, treated with lumpectomy and arimidex tx
old pulmonary nodule
thryoid nodule
s/p left insular cortex stroke and TIAs (___)
 
Social History:
___
Family History:
There is family history of strokes (mother and father)
 
Physical Exam:
Vitals: 97.8, hr 64, bp 147/78, rr 19, Sa02 93% on RA.   
Weight 64.7 kilo (59 kilos at ___'s office on ___
General: sleepy, drifting in and out of sleep during 
interview/exam, oriented, no acute distress, primarily ___ 
speaking, hard of hearing, son as well as daughter in law over 
phone translated  
HEENT: Sclera anicteric, moderately dry mucous membranes, 
oropharynx clear, EOMI, PERRL.  
Neck: supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: diffuse crackles bilaterally, more course in bases  
Abdomen: soft, ___, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: foley draining clear yellow urine 
Ext: Warm, well perfused, 2+ pulses, 2+ lower extremity edema up 
to mid shins bilaterally. No clubbing or cyanosis. 
Neuro: A+Ox3 although slow to respond, ___ intact, ___ 
strength upper/lower extremities, grossly normal sensation, 2+ 
reflexes bilaterally, gait deferred.  
 

 
Pertinent Results:
___ 12:40PM   ___ ___
___ 12:40PM   PLT ___ PLT ___
___ 12:40PM   ___ 
___ 
___
___ 12:40PM   ___ 
___
___ 12:40PM   ___ 
___
___ 12:40PM   ___
___ 12:40PM   ___ MB ___
___ 12:40PM   cTropnT-<0.01
___ 12:40PM   ___
___ 12:40PM   ALT(SGPT)-36 AST(SGOT)-40 CK(CPK)-167 ALK 
___ TOT ___
___ 12:40PM   ___ this
___ 12:40PM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 12:50PM URINE  ___ WBC-<1 ___ 
___
___ 12:50PM URINE  ___ 
___ 
___
___ 12:50PM URINE  ___ SP ___
___ 12:50PM URINE  ___
___ 12:50PM URINE  ___
___ 12:50PM URINE  ___ UREA ___ 
___
___ 12:51PM   ___
___ 04:40PM   ___
___ 04:40PM   ___
___ 04:40PM   ___

On the day of discharge (___), the patient's labs were:
Na 137, K 4.1, Cl 101, HCO3 26, BUN 19, Cr 0.6
INR pending
 
Brief Hospital Course:
___ F w/ week of increasing fatigue, confusion and poor po 
intake found to be hyponatremic to 106 with altered mental 
status.
.
Severe symptomatic hyponatremia of unclear etiology, resolving
- admitted to the ICU for hypertonic saline and furosemide
- Nephrology consulted
- ultimately thought to have been multifactorial, possibly 
diuretic related vs. SIADH
- volume status difficult to assess given the issues noted below
- fluid restriction 800mL/day
- stable Na for several days prior to discharge
- felodipine and HCTZ were stopped and should not be restarted
.
Pulmonary edema and lower extremity edema on admission
- found on CXR, and BNP was elevated
- attributed to her history of diastolic CHF (followed by Dr. 
___
- repeat TTE this admission showed: EF>55%, right atrial 
lengthening and moderate TR, MR, pulmonary hypertension. EKG in 
ED did not show evidence of strain or ischemia. First set ___ 
and CKMB within normal limits. Repeat BNP was similar to prior, 
mildy elevated. Improvement in respiratory satus and decreased 
O2 requirement with iv lasix suggested some volume over load
- her lower extremity edema was ultimately attributed to her 
calcium channel blocker, so felodipine was held
.
HTN, diastolic CHF
- ___ management guided by Nephrology with PCP
- atorvastatin and carvedilol were continued (latter at max 
dose)
- stopped CCB given confusion about volume status (was it 
causing leg swelling?)
- stopped HCTZ given likely contribution to hyponatremia
- restarted valsartan prior to discharge and titrated up to max 
dose -- she may require addition of other agents if she remains 
hypertensive as an outpatient
- hydralazine and clonidine could be considered (avoid more 
___, avoid diuretics, avoid CCBs)
.
Afib on warfarin (CHADS2 3 for CHF, HTN, age)
- carvedilol as above
- held warfarin intermittently given elevated INR -- 
___ will be following ___
.
Thrombocytopenia of unclear etiology with monocytosis
- abdominal ultrasound this admission showed no 
hepatosplenomegaly
- fibrinogen normal
- normal platelets the day prior to discharge, but still with 
abnormal diff, no sig change
- after d/w PCP plan is for outpt Hematology appointment (in 
___, see f/u section) with recheck of CBC in the interim
.
Other
- continued on her home artificial tears and timolol
.
Recent fall
- ___ consult recommend SNF

Day of discharge:
Interval history: There were no events the night prior to 
discharge, including no confusion (had been an issue in the 
ICU).  She felt ok, had no questions and understood the plan to 
d/c to SNF.  Her family was involved in explaining this to her 
in ___.  All of their questions were answered.

Discharge day exam:
Vitals: afebrile, BP 150/82, HR 76, RR 16, sat 98% on RA
Gen: elderly woman seated next to bed eating, alert, 
cooperative, very hard of hearing esp on L
HEENT: MMM
Chest: equal chest rise, no WOB, no cough, CTAB anteriorly
Heart: RRR, no m/r/g
Abd: soft, NTND
Extr: WWP, no sig pitting edema
Skin: no obvious rashes
Neuro: no obvious focal deficits, able to get to and from the 
bathroom
Psych: normal affect

Discharge day labs noted above
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Family/Caregiver.
1. Atorvastatin 10 mg PO HS 
2. Carvedilol 25 mg PO Q 8H atrial fibrillation 
hold for sbp<100 and hr<60. 
3. Felodipine 2.5 mg PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Valsartan 160 mg PO BID 
6. Warfarin 0.5 mg PO 2X/WEEK (___) 
___ and ___ 
7. Warfarin 1 mg PO 5X/WEEK (___) 
8. Docusate Sodium 100 mg PO BID:PRN constipation 
9. Magnesium Oxide 400 mg PO ONCE Duration: 1 Doses 
10. Artificial Tears ___ DROP BOTH EYES PRN prn 
11. Timolol Maleate 0.25% 1 DROP BOTH EYES BID 

 
Discharge Medications:
1. Artificial Tears ___ DROP BOTH EYES PRN prn 
2. Atorvastatin 10 mg PO HS 
3. Carvedilol 25 mg PO Q 8H atrial fibrillation 
hold for sbp<100 and hr<60. 
4. Warfarin 2.5 mg PO 2X/WEEK (___) 
5. Warfarin 5 mg PO 5X/WEEK (___) 
6. Docusate Sodium 100 mg PO BID:PRN constipation 
7. Timolol Maleate 0.25% 1 DROP BOTH EYES BID 
8. Valsartan 160 mg PO BID 

 
Discharge Disposition:
Home with Service
 
Facility:
___
 
Discharge Diagnosis:
Severe multifactorial hyponatremia
Atrial fibrillation on warfarin
Hypertension
Diastolic congestive heart failure
Chronic thrombocytopenia with monocytosis
Severe hearing loss

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted with a very low sodium concentration 
(hyponatremia) in your body.  This was likely due to a 
combination of factors, and you were treated for these.  To 
prevent this from happening again, you need to make sure to not 
drink too much fluid and likely you need to avoid certain 
medications in the future.
 
Followup Instructions:
___